US04038392
Methyl 3-[(4-pyridyl)-sulfinylmethyl]-2-quinoxalinecarboxylate-1,4-dioxide
Methyl 3-[(4-pyridyl)-thiomethyl]-2-quinoxalinecarboxylate-1,4-dioxide (0.03 moles) in 120 ml of chloroform was treated dropwise with m-chloroperbenzoic acid (0.03 moles) in 80 ml of chloroform at 0°-5° C. The solution after 2 hours was washed with 5% NaHCO3 solution (3 × 200 ml), water (1 × 60 ml) and then dried over sodium sulfate. The chloroform solution was concentrated to a small volume and added with stirring to 300 ml of ether to precipitate the desired product. Yield, 10.1 grams (94%); m.p. 137°-39° C. (dec.).

reactant | Methyl 3-[(4-pyridyl)-thiomethyl]-2-quinoxalinecarboxylate-1,4-dioxide | 0.03 moles | N1=CC=C(C=C1)SCC1=C([N+](=C2C=CC=CC2=[N+]1[O-])[O-])C(=O)OC | C16H13N3O4S
reactant | m-chloroperbenzoic acid | 0.03 moles | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-[(4-pyridyl)-sulfinylmethyl]-2-quinoxalinecarboxylate-1,4-dioxide | N1=CC=C(C=C1)S(=O)CC1=C([N+](=C2C=CC=CC2=[N+]1[O-])[O-])C(=O)OC | C16H13N3O5S
